US07968534B2
(2,6-Difluorophenyl)(3-methoxy-2-nitrophenyl)methanol
77.5 ml of a 1.6M solution of n-butyllithium (1.5 eq.) in hexane are added dropwise in order to maintain a temperature of less than or equal to −70° C. to a solution of 12.3 ml of 1,3-difluorobenzene (1.5 eq.) in 150 ml of tetrahydrofuran over 1 hour. After an additional 1 hour at −70° C., a solution of 15 g of 2-nitro-3-methoxybenzaldehyde in tetrahydrofuran is added over 1 hour still at −70° C. The reaction medium is stirred for 4 hours at −70° C. and then brought to a temperature of −5° C. over 1 hour. The reaction medium is then diluted by adding diethyl ether and then slowly hydrolyzed with a saturated aqueous solution of ammonium chloride. After decantation, the organic phase is washed with water and then dried over anhydrous sodium sulfate. The residue is chromatographed on silica gel, eluting with a dichloromethane/cyclohexane mixture (1/1) (v/v) in order to obtain 13.4 g of the expected product.

reactant | n-butyllithium | 1.5 eq. | C(CCC)[Li]
reactant | 1,3-difluorobenzene | 12.3 ml, 1.5 eq. | FC1=CC(=CC=C1)F | C6H4F2
reactant | 2-nitro-3-methoxybenzaldehyde | 15 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1OC | C8H7NO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2,6-Difluorophenyl)(3-methoxy-2-nitrophenyl)methanol | 13.4 g | FC1=C(C(=CC=C1)F)C(O)C1=C(C(=CC=C1)OC)[N+](=O)[O-] | C14H11F2NO4
